Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Pravachol / Sulfa (Sulfonamide Antibiotics) / Zestril
 
Attending: ___.
 
Chief Complaint:
Shortness of breath 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is an ___ yo female with hx of CAD s/p CABG and
stenting, HTN, Afib on coumadin, IDDM, COPD on 3L home O2, and
HFpEF presenting with increased shortness of breath. 

___ has noticed increased SOB over the past week. It is 
worse
with exertion without improvement with home inhalers. She also
endorses orthopnea, which she reports is her baseline. She 
denies
any fevers, chills, cough, increased sputum, pain with 
breathing,
nausea, vomiting, or myalgias. Also denies chest pain,
palpitations, diaphoresis or leg pain. Of note, last ___
___ had her ___ birthday party where ___ food was
served. Has been compliant with her home meds with no changes,
and has not noticed any weight changes. No recent travel or
history of blood clots. ___ son noted her difficulty
breathing and called ambulance for her. 

On transfer in ambulance, she was noted to have SOB and thus 
home
O2 at 3 L increased to 4L by EMS. 
 
In the ED, initial vitals:  T: 98.3 HR: 72 BP: 134/88 RR: 18 O2
sat 99% on 4L O2
-Exam notable for: 
bilateral crackles at bases, L>R with wheezing, mildly increased
work of breathing
Irregular rhythm, 2+ pitting edema to knees bilaterally 
(baseline
per ___

-Labs notable for:  
WBC: 13.0* H/H: 12.4/38.7 Plt: 218
Trop: <0.01
BNP: 3177*
Lactate: 1.9

-Imaging notable for:  
CXR: Cardiomegaly without superimposed acute cardiopulmonary
process.

-Pt given:  
IV Azithromycin 500mg 
Duo nebs x1
Docusate 100mg 

-Vitals prior to transfer: T: 97.7 HR: 64 BP: 110/69 RR: 18 O2
Sat: 95% on RA
 
On the floor, ___ clarified above story. Also reports that a
week and a half ago was having diarrhea that has since resolved.
Notes that she feels better after the nebulizers given to her in
the ED although still short of breath. Continues to deny any
fevers, cough or increased sputum. Also notes that she has been
constipated, with last bowel movement 4 days ago. 

Collateral from daughter notes that leg swelling is at baseline.
 
REVIEW OF SYSTEMS:  
Complete ROS obtained and is otherwise negative.  

 
Past Medical History:
 
PAST MEDICAL HISTORY:  
CAD s/p CABG and multiple ___
HFpEF (LVEF = 53% in ___
Hypertension
T2DM
Hyperlipidemia
Peripheral Neuropathy  
h/o herniated disk (receives monthly injections) 
Macular degeneration of L eye 
Cholecystectomy
Venous Stasis
Dry Skin
Hemorrhoids
Bone spur on right foot
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.
 
Physical Exam:
Admission:
VITALS: T: 97.4 PO BP: 118/64 HR: 68 RR:20 O2 Sat: 97% on 3L 
weight 191 (bed)
GENERAL: elderly woman lying in bed, in no acute distress
HEENT: Normocephalic, atraumatic. R pupil round and reactive to
light (macular degeneration in L eye), EOMI. Sclera anicteric 
and
without injection. MMM, oropharynx clear with no pharyngeal
erythema.
NECK: Soft, JVD 13cm.
CARDIAC: Irregularly irregular, audible S1 S2, no m/r/g
LUNGS: Crackles at bases L>R, bilaterally wheezes, no increased
work of breathing or use of accessory muscles
ABDOMEN: Normal bowels sounds, soft, mildly distended, mildly
tender to deep palpation diffusely. No organomegaly.  
EXTREMITIES: Warm and well perfused, bilateral 1+ pitting edema
up to knees
SKIN: Red rash on right shin
NEUROLOGIC: Awake, alert. CN2-12 intact. Speech fluent.

Discharge: 
Vitals: T97.9 BP 122/76 HR71 RR20 93% on 2L 
GENERAL: elderly woman lying in bed, in no acute distress
HEENT: Normocephalic, atraumatic
NECK: Soft, JVD 9cm.
CARDIAC: Irregularly irregular, audible S1 S2, holosystolic 
murmur 
LUNGS:  mild crackles at bases L>R, no wheezes, no increased 
work of breathing or use of accessory muscles
ABDOMEN: Soft, non-distended, mild tenderness in lower quadrants 

EXTREMITIES: Warm and well perfused, bilateral 1+ pitting edema 
to mid-shins. Right foot tender to palpation on dorsal and 
plantar aspects, worse below the ___ digits. 
SKIN: Erythematous discolorations shins bilaterally
NEUROLOGIC: Awake, alert. CN2-12  grossly intact. Speech fluent.

 
Pertinent Results:
Admission Labs:
___ 03:30PM BLOOD WBC-13.0* RBC-4.13 Hgb-12.4 Hct-38.7 
MCV-94 MCH-30.0 MCHC-32.0 RDW-15.0 RDWSD-51.5* Plt ___
___ 03:30PM BLOOD Neuts-84.5* Lymphs-9.8* Monos-4.2* 
Eos-0.4* Baso-0.5 Im ___ AbsNeut-10.99* AbsLymp-1.28 
AbsMono-0.54 AbsEos-0.05 AbsBaso-0.06
___ 03:30PM BLOOD ___ PTT-29.0 ___
___ 03:30PM BLOOD Glucose-251* UreaN-30* Creat-1.1 Na-141 
K-3.9 Cl-101 HCO3-25 AnGap-15
___ 03:30PM BLOOD cTropnT-<0.01
___ 03:30PM BLOOD proBNP-3177*
___ 03:30PM BLOOD Calcium-9.3 Phos-3.3 Mg-1.9
___ 03:40PM BLOOD Lactate-1.9

Micrology:
Ucx. x2 - no growth 
Bcx. - pending at discharge

Imaging: 
EKG: Rate 84 PR 155 QRS 443 QT QTc 485/524 (___)

CXR:
IMPRESSION: Cardiomegaly without superimposed acute 
cardiopulmonary process. 

___ Foot AP/Lat/Oblique: 
Degenerative changes as above. Patchy demineralization, limiting 
assessment for nondisplaced fracture. Faint lucency along the 
medial aspect of the second toe proximal phalanx base 
may be artifactual but nondisplaced fracture is not excluded, 
recommend 
correlation clinically. Moderate second TMT osteoarthritis. 

Discharge Labs:
___ 06:50AM BLOOD WBC-8.7 RBC-4.04 Hgb-11.9 Hct-37.3 MCV-92 
MCH-29.5 MCHC-31.9* RDW-14.9 RDWSD-51.4* Plt ___
___ 06:50AM BLOOD Glucose-100 UreaN-32* Creat-1.2* Na-136 
K-4.1 Cl-94* HCO3-29 AnGap-13
___ 06:50AM BLOOD Calcium-8.9 Phos-3.3 Mg-2.2
 
Brief Hospital Course:
Ms. ___ is an ___ yo female with hx of CAD s/p CABG and 
stenting, HTN, Afib on coumadin, IDDM, COPD on 3L home O2, and 
HFpEF presenting with 3 days of increasing shortness of breath, 
presentation consistent with CHF exacerbation after dietary 
indiscretion.

#SOB
#Acute on chronic HFpEF
___ presented with several days of SOB and a minor step up 
in O2 requirement (3->4L) after eating a salty ___ dinner at 
her ___ birthday party on ___. On presentation, 
she appeared to be volume overloaded on exam with JVD to the 
mandible, 2+ bilateral pitting edema and mild bilateral 
crackles. ProBNP elevated with cardiomegaly on CXR, confirming 
HF. Mild leukocytosis resolved within 24 hours (13 -> 9.8). 
Troponins neg, and lactate WNL. Treated with IV Azithromycin 500 
mg x1 and Duo nebs in the ED for concern for COPD. Bumex held 
initially, however ___ was given Colace for constipation 
with good effect, and showed improvement in her breathing, lung 
exam, and return to baseline O2 requirement without diuretics. 
Given improvement, restarted home Bumex 2 mg PO with home 
metolazone (taken as a PRN for weight at home) with close 
monitoring of daily standing weights. Bumex held on HD3-5 for 
rise in creatinine concerning for ___. Home atenolol was 
transitioned to fractionated metoprolol given mild bump in 
creatinine prior to diuresis. Close monitoring of electrolytes 
and renal function throughout diuresis with repletion of 
electrolytes as needed. 

___
Creatinine began rising with re-initiation of home Bumex and 
home Metolazone (taken monthly at home for elevated weights). On 
HD3, Crea up to 1.4 (1.1 admission) and weight down 6 lbs., 
though euvolemic on exam. Bumex held on ___ for presumed 
prerenal azotemia. Home metoprolol was fractionated and held for 
systolic < 100 and 60
#COPD
___ presenting with diffuse wheezes. Treated with 
Azithromycin 500 mg x1 and duo nebs x1 in the ED. Although she 
presented with SOB, no cough or sputum changes, and relatively 
abrupt change in breathing gave low suspicion for COPD 
exacerbation. Home PRN albuterol inhaler continued. 

#Afib
#subtherapeutic warfarin
EKG notable for irregularly irregular rhythm on admission, 
consistent with
known history of Afib. Rate stable. On Coumadin for 
anticoagulation (CHAD2 =4). INR 1.6 on presentation, 1.7 
following AM. Coumadin initially uptitrated to 3mg, however, INR 
was 2.3 on HD3, and Coumadin was down-titrated back to 2 mg. 
___ trended throughout admission, and was therapeutic on 
admission. Home Atenolol transitioned to fractionated Metoprolol 
in-house for creatinine bump. Return to baseline Coumadin dose 
of 2mg/1mg alternating. 

#Constipation
In the ED, ___ noted last bowel movement was 4 days prior to 
admission. Treated with increased bowel regimen to good effect. 
Constipation continued to be treated throughout admission. Of 
note, she is also taking opioids for pain control.

#R Foot Pain
___ complaining of on-going foot on ball of right foot that 
limits ambulation. Daughter reports foot pain has been ongoing 
and prompted an ED visit to ___ in early ___. 
Review of ___ foot radiographs significant for osteophyte 
but no fracture. ___ has ongoing ___ at home for pain. While 
inpatient was treated with analgesics for pain. A AP/Lat/Oblique 
of the right foot was significant for faint lucency along medial 
aspect of the second toe proximal phalanx base that represents a 
nondisplaced fracture. Podiatry was consulted and recommended 
surgical boot with pain management with f/u outpatient to assess 
mobility limitations. 

CHRONIC ISSUES: 
=============== 
#IDDM
Oral anti-glycemics held. Nighttime glargine insulin decreased 
to 25U at bed time in house + sliding scale with meals. 

#Low back pain 
Home oxycodone 5mg Q4H PRN and acetaminophen 650 mg Q8H PRN 
continued. Oxycodone limited for sedation. 

#Hypertension
Home atenolol transitioned to 6.25 mg PO metoprolol q6H. 
Hemodynamically stable throughout admission. 

#CAD
-Continued on home atorvastatin, aspirin

#Peripheral neuropathy
-Continued on home gabapentin

#GERD
-Continued on home omeprazole 

Transitional Issues:
=====================
[] consider transitioning to a NOAC from warfarin since the 
___ is often not therapeutic
[] please continue to assess foot pain- ___ xray showed 
nondisplaced fracture which would be treated with immobolization 
via surgical boot. F/u w/ podiatry as outpatient. ___ consider 
adding NSAID anti-inflammatories if creatinine normalizes. ___ 
have neuropathic component ___ DM, can also consider uptitrating 
gabapentin 
[] please weigh ___ daily, if weight goes up by 3lbs, give 
2.5mg metolazone with her 1mg bumex 
[] please trend volume status and weight daily and creatinine 
every other day during the week of ___ and decide if bumex 1mg 
every other day is a good regimen; ___ is sensitive to her 
diuretics
[] continue to check INR daily and dose warfarin accordingly
[] please monitor blood pressures on metoprolol (new 
medication), consider transitioning to 25mg metoprolol XL daily 
if blood pressures stable. Low threshold to hold metoprolol for 
soft pressures. 

I have seen and examined Ms. ___, reviewed the findings, 
data, and plan of care documented by Dr. ___, MD dated 
___ and agree. Ms. ___ is clinically stable for 
discharge today. The total time spent today on discharge 
planning, counseling and coordination of care today was greater 
than 30 minutes.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Bumetanide 2 mg PO DAILY 
4. Warfarin 2 mg PO 4X/WEEK (MO,WE,TH,FR) 
5. Warfarin 1 mg PO 3X/WEEK (___) 
6. Gabapentin 300 mg PO BID 
7. Gabapentin 600 mg PO QHS 
8. Glargine 30 Units Bedtime
9. Loratadine 10 mg PO DAILY 
10. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
11. Atenolol 50 mg PO DAILY 
12. Omeprazole 20 mg PO DAILY 
13. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate 
14. Potassium Chloride 40 mEq PO DAILY 
15. SITagliptin 100 mg oral DAILY 
16. Metolazone 2.5 mg PO DAILY:PRN Weight gain 
17. Senna 8.6 mg PO BID:PRN Constipation - First Line 
18. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Hydrocortisone (Rectal) 2.5% Cream ___ID Duration: 7 
Days  
2.  Lidocaine 5% Patch 1 PTCH TD QAM foot pain   
3.  Metoprolol Tartrate 6.25 mg PO Q6H  
4.  Warfarin 1 mg PO 3X/WEEK (___) ___ 
Please assess and dose daily.   
5.  Bumetanide 1 mg PO DAILY 
Please continue to assess volume status daily. Very sensitive to 
her home regimen.  
6.  Glargine 30 Units Bedtime 
7.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB  
8.  Atorvastatin 80 mg PO QPM  
9.  Docusate Sodium 100 mg PO BID  
10.  Gabapentin 300 mg PO BID  
11.  Gabapentin 600 mg PO QHS  
12.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate 
RX *hydrocodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
four times a day Disp #*10 Tablet Refills:*0 
13.  Loratadine 10 mg PO DAILY  
14.  Metolazone 2.5 mg PO DAILY:PRN Weight gain  
15.  Omeprazole 20 mg PO DAILY  
16.  Potassium Chloride 40 mEq PO DAILY  
17.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
18.  SITagliptin 100 mg oral DAILY  
19.  Warfarin 2 mg PO 4X/WEEK (MO,WE,TH,FR) ___ 
Duration: 1 Dose 
Assess INR daily and decide on dosing   

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
Acute on Chronic Heart Failure
COPD on home O2
Constipation
Atrial fibrillation 

Secondary Diagnoses:
Insulin Dependent Diabetes
Hemorrhoids
Back Pain
CAD
Peripheral neuropathy
GERD
R Foot Osteophyte

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

Why did you come to the hospital?
-You came to the hospital because you were feeling short of 
breath. 
-We found a lot of fluid in your lungs and your legs that we 
think made you feel short of breath.
-You also were found to have constipation. 
-We also noticed that the dose of your blood thinning 
medication, Coumadin, was not quite high enough to treat your 
Afib. 
-You came in with some right foot pain. 

What did we do for you while you were at the hospital?
-We gave you your home medicine Bumex for your heart failure, as 
well as the metolazone medication, which you take sometimes for 
your heart failure.
-We watched your weight and how much you urinated to make sure 
that you peed off the extra fluid in your lungs.
-We decreased your Bumex to 1 mg every day vs every other day. 
We were very careful with how much of your Bumex we gave you 
because you are very sensitive to it. 
-We gave you medicines for your constipation. You felt much 
better after taking these medications. 
-We realized that your dose of your blood thinning medication, 
Coumadin, was not high enough. 
-We increased it, and watched your blood tests to make sure you 
were getting the right amount of Coumadin. 
-We switched your atenolol to metoprolol, which is another 
medication for your Afib that is a little bit nicer for your 
kidneys.
-We treated your foot pain with pain medications. 
-We got a picture of your foot. It showed chronic changes that 
could cause you discomfort but did not show any large fracture 
that we could fix.
-The Podiatrists (foot doctors) came to see you. They would like 
to see you when you leave the hospital to try to help you with 
your foot pain. 

What should you do when you go home?
-Continue to weigh yourself every day. If you have >3 lbs of 
weight gain in 1 day, call your doctor.
-___ to eat a low salt (<2g/day)/low sugar diet.
-Continue to take the lower dose of your Bumex (1mg) every day. 
Take your metolazone if your weight increases quickly or if you 
feel very short of breath. Call you doctor if this happens.
-You may not need 3L of oxygen at home. Check your 
pulse-oximeter, because 2L may be enough.
-Continue to take your new metoprolol medication. 
-Visit your podiatrist for your foot pain. 
-Continue to wear your surgical shoe and your lidocaine patches 
so that you can walk and continue working on getting stronger. 

It was a pleasure taking care of you during your admission at 
___. 

Take Care,
Your SIRS General Medicine Team at ___
 
Followup Instructions:
___